US08003651B2
tert-Butyl (R)-3-(4-chlorophenyl)-1-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate was treated with HCl (4M in dioxane, 2 mL) in DCM (5 mL) for 6 hours to provide (R)-2-amino-3-(4-chlorophenyl)-1-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride (58 mg, 99%). MS (APCI+) [M+H] +414.

reactant | tert-Butyl (R)-3-(4-chlorophenyl)-1-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate | ClC1=CC=C(C=C1)C[C@H](C(=O)N1C[C@@H](N(CC1)C=1C2=C(N=CN1)CC[C@H]2C)C)NC(OC(C)(C)C)=O | C27H36ClN5O3
reactant | HCl | 4M, 2 mL | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-amino-3-(4-chlorophenyl)-1-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride | 58 mg, 99% | Cl.Cl.N[C@@H](C(=O)N1C[C@@H](N(CC1)C=1C2=C(N=CN1)CC[C@H]2C)C)CC2=CC=C(C=C2)Cl | InChI=1S/C22H28ClN5O.2ClH/c1-14-3-8-19-20(14)21(26-13-25-19)28-10-9-27(12-15(28)2)22(29)18(24)11-16-4-6-17(23)7-5-16;;/h4-7,13-15,18H,3,8-12,24H2,1-2H3;2*1H/t14-,15+,18-;;/m1../s1
